US07514452B2
Preparation of 3-furancarboxylic acid hydrazide
Ethyl 3-furancarboxylate (7.0 g) and hydrazine monohydrate (4.8 ml) in ethanol (10 ml) were heated at reflux while stirring for 6 hours. The solvent was evaporated under reduced pressure, and the thus-precipitated crystals were recrystallized from ethanol, thereby giving 3.2 g of the desire compound.

reactant | Ethyl 3-furancarboxylate | 7.0 g | O1C=C(C=C1)C(=O)OCC | C7H8O3
reactant | hydrazine monohydrate | 4.8 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-furancarboxylic acid hydrazide | 3.2 g | O1C=C(C=C1)C(=O)NN | C5H6N2O2
